US04219551
20 mmol of 4-[3-(2-chloroethoxy)-4-methoxyphenyl]-2-pyrrolidone is dissolved in 50 ml. of dimethylformamide. After adding 22 mmol of 1-phenylpiperazine (95% strength) and 20 mmol of triethylamine, the reaction mixture is heated for 6 hours to 100 ° C. After the reaction has ceased, the solvent is withdrawn at 40° under a high vacuum. The residue is taken up in 50 ml. of ethyl acetate, washed with semisaturated sodium chloride solution, and the solvent, after drying over sodium sulfate, is distilled off under vacuum, thus obtaining in a 15.2% yield 4-{4-methoxy-3-[2-(4-phenylpiperazin-1-yl)ethoxy]-phenyl}-2-pyrrolidone, m.p. 140°-141°. The dihydrochloride, m.p. 219°-221°, is precipitated from ethereal hydrochloric acid.

reactant | 4-[3-(2-chloroethoxy)-4-methoxyphenyl]-2-pyrrolidone | 20 mmol | ClCCOC=1C=C(C=CC1OC)C1CC(NC1)=O | C13H16ClNO3
reactant | 1-phenylpiperazine | 22 mmol | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 20 mmol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-{4-methoxy-3-[2-(4-phenylpiperazin-1-yl)ethoxy]-phenyl}-2-pyrrolidone | 15.2% yield | COC1=C(C=C(C=C1)C1CC(NC1)=O)OCCN1CCN(CC1)C1=CC=CC=C1 | C23H29N3O3
